US08383654B2
Step 6: 2-Bromomethyl-4-nitro-benzoic acid ethyl ester
2-Methyl-4-nitro-benzoic acid ethyl ester (6.0 g, 28.7 mmol), N-bromosuccinimide (5.4 g, 30.3 mmol), and benzoyl peroxide (0.695 g, 2.87 mmol) were combined in CCl4 (250 mL). The reaction was heated to reflux and stirred under a halogen lamp overnight. After aqueous work-up, the residue was purified by silica gel chromatography to give the title compound.

reactant | 2-Methyl-4-nitro-benzoic acid ethyl ester | 28.7 mmol, 6.0 g | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C10H11NO4
reactant | N-bromosuccinimide | 30.3 mmol, 5.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.87 mmol, 0.695 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C10H10BrNO4
